US08791161B2
5-fluoro-2-((3-nitrobenzyl)thio)aniline
Following General Procedure A, the title compound (460 mg, 97%) was prepared from 2-amino-4-fluorobenzenethiol (562 g, 3.93 mmol), 1-(bromomethyl)-3-nitrobenzene (566 mg, 2.62 mmol), K2CO3 (1.8 g, 13.10 mmol) in DMF (10 ml).

reactant | 2-amino-4-fluorobenzenethiol | 3.93 mmol, 562 g | NC1=C(C=CC(=C1)F)S | C6H6FNS
reactant | 1-(bromomethyl)-3-nitrobenzene | 2.62 mmol, 566 mg | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | K2CO3 | 13.10 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-fluoro-2-((3-nitrobenzyl)thio)aniline | 460 mg, 97% | FC=1C=CC(=C(N)C1)SCC1=CC(=CC=C1)[N+](=O)[O-] | C13H11FN2O2S
